US07011838B2
Using 0.50 g of (4-chlorobenzyl)malononitrile, 5 ml of N,N-di-methylformamide, 0.12 g of sodium hydride (60% in oil), and 0.30 ml of 1,1,3-trichloropropene, and according to the process described in the Production Example 1, there was obtained 0.52 g of 2-(4-chlorobenzyl)-2-(3,3-dichloro-2-propenyl)malononitrile (the present compound (20)).

reactant | (4-chlorobenzyl)malononitrile | 0.50 g | ClC1=CC=C(CC(C#N)C#N)C=C1 | C10H7ClN2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1,1,3-trichloropropene | 0.30 ml | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-di-methylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyl)-2-(3,3-dichloro-2-propenyl)malononitrile | 0.52 g, Yield: 66% | ClC1=CC=C(CC(C#N)(C#N)CC=C(Cl)Cl)C=C1 | C13H9Cl3N2
